US08809352B2
(R)-3-cyano-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)benzenesulfonamide
The title compound was prepared from 4-fluoro-3-(cyano)benzenesulfonamide and (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine using the procedure described for Intermediate 4.

reactant | 4-fluoro-3-(cyano)benzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)N)C#N | C7H5FN2O2S
reactant | (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine | CN(CC[C@H](CSC1=CC=CC=C1)N)C | C12H20N2S
product | (R)-3-cyano-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)benzenesulfonamide | C(#N)C=1C=C(C=CC1N[C@@H](CSC1=CC=CC=C1)CCN(C)C)S(=O)(=O)N | C19H24N4O2S2
